US04853381
1-[3-[(6-Bromohexyl)oxy]propyl]-4-(methylthio)benzene
A mixture of 4-(methylthio)benzenepropanol (5.0 g), 1,6-dibromohexane (17.0 g), TAB (0.4 g) and aqueous sodium hydroxide (50% w/v, 20 ml) was stirred for 20 h, diluted with water (30 ml), and extracted with ether (2×100 ml). The dried extract was evaporated and the residue was purified by FCC eluting with cyclohexane followed by System A (19:1) to give the title compound as a colourless oil (7.0 g), T.l.c. (System A 9:1) Rf 0.5.

reactant | 4-(methylthio)benzenepropanol | 5.0 g | CSC1=CC=C(C=C1)CCCO | C10H14OS
reactant | 1,6-dibromohexane | 17.0 g | BrCCCCCCBr | C6H12Br2
reactant | sodium hydroxide | 20 ml | [OH-].[Na+]
solvent | water | 30 ml | O | H2O
product | 1-[3-[(6-Bromohexyl)oxy]propyl]-4-(methylthio)benzene | 7.0 g | BrCCCCCCOCCCC1=CC=C(C=C1)SC | C16H25BrOS
